US07217730B2
(4-Bromo-7-fluoro-1H-indol-3-yl)-acetaldehyde
The mixture of 2-(4-bromo-7-fluoro-1H-indol-3-yl)-ethanol (3.00 g, 11.6 mmol) and o-iodoxybenzoic acid (IBX, 9.76 g, 34.9 mmol) in DMSO (60 mL) was stirred overnight at room temperature. The solution was diluted with H2O (100 mL) and the precipitates were filtered and the filter cake was rinsed with EtOAc. The filtrate was extracted with EtOAc (3×150 mL) and the combined organic solution was washed with brine (300 mL), dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 25% EtOAc in hexanes) to give 2.48 g (83%) of the title compound as a pale yellow solid. 1H NMR (CDCl3): 300 MHz δ 9.93 (s, 1H), 8.44 (bs, 1H), 7.20 (m, 1H), 7.17 (dd, J=8.40, 4.32 Hz, 1H), 6.80 (dd, J=10.2, 8.40 Hz, 1H), 4.12 (s, 2H).

reactant | 2-(4-bromo-7-fluoro-1H-indol-3-yl)-ethanol | 11.6 mmol, 3.00 g | BrC1=C2C(=CNC2=C(C=C1)F)CCO | C10H9BrFNO
reactant | o-iodoxybenzoic acid | 34.9 mmol, 9.76 g | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | H2O | 100 mL | O | H2O
product | (4-Bromo-7-fluoro-1H-indol-3-yl)-acetaldehyde | 2.48 g, 83% | BrC1=C2C(=CNC2=C(C=C1)F)CC=O | C10H7BrFNO
